US03957877
2,6,6-Trimethyl-1-(but-2-enoyl)-cyclohexa-1,3-dien-5-one
2.5 g (13 mMole) of 2,6,6-trimethyl-1-(but-2-enoyl)-cyclohexa-1,3-dien [prepared according to the method given in Helv. Chim. Acta 54, 1899 (1971)] dissolved in 50 ml of dioxane were heated, under nitrogen atmosphere, during 45 min. at 60°, in the presence of 1.8 g (16 mMole) of selenium oxide. The reaction mixture was then cooled, concentrated under reduced pressure, and the obtained residue, diluted with 50 ml of acetic acid, was finally stirred at room temperature for 2 hours in the presence of 6 g of Raney nickel. The reaction mixture was then filtered, evaporated to dryness and the obtained residue was distilled (b.p. 100°-110°/o.2 Torr) to afford 2.4 g of a material containing 80 % of the desired keto compound.

reactant | 2,6,6-trimethyl-1-(but-2-enoyl)-cyclohexa-1,3-dien | 13 mMole, 2.5 g | CC1=C(C(CC=C1)(C)C)C(C=CC)=O | C13H18O
reactant | selenium oxide | 16 mMole, 1.8 g | [Se]=O | OSe
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 2,6,6-Trimethyl-1-(but-2-enoyl)-cyclohexa-1,3-dien-5-one | 2.4 g | CC1=C(C(C(C=C1)=O)(C)C)C(C=CC)=O | C13H16O2
